US05340831
A solution of phosphorus tribromide (5 g) in carbon tetrachloride (10 ml) was added, dropwise, to a solution of 4-cyanophenethyl alcohol (8.06 g) in carbon tetrachloride (60 ml). The mixture was heated under reflux for 4 hours. On cooling to room temperature, the mixture was poured onto ice (200 g). The layers were separated and the organic layer was washed with 10% aqueous sodium carbonate (50 ml) and brine (50 ml), dried (MgSO4) and concentrated in vacuo to give a colourless oil which solidified on standing. The solid was chromatographed on silica eluting with ethyl acetate containing hexane (20%). The fractions containing the less polar (higher Rf) product were combined and concentrated in vacuo to give 4-cyanophenethyl bromide as a yellow oil which solidified on standing, yield 8.9 g. The fractions containing the more polar (lower Rf) product were combined and concentrated in vacuo to give 4-carbamoylphenethyl bromide as a colourless solid, yield 0.47 g, m.p. 152°-153° .

reactant | phosphorus tribromide | 5 g | P(Br)(Br)Br | Br3P
reactant | 4-cyanophenethyl alcohol | 8.06 g | C(#N)C1=CC=C(CCO)C=C1 | C9H9NO
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-cyanophenethyl bromide | C(#N)C1=CC=C(CCBr)C=C1 | C9H8BrN
